US05053412
(a) 3-Nitromethylquinuclidin-3-ol
Quinuclidin-3-one (125 g., 1 mole) was dried by azeotropic distillation (40% w/w in toluene) and placed in a 3 l. flask equipped with a mechanical stirrer, 1 l. methanolic sodium ethoxide was added and the clear solution was stirred at 15°-20° C. Nitromethane, 61 g. (1.0 mole), dissolved in 500 ml. absolute ethanol was then added over 0.5 hour while keeping the temperature below 20° C. The solution was acidified to pH=1 using HCl-isopropanol, filtered and dried to yield 160 g. crude product which was used as such for the next step.

reactant | Quinuclidin-3-one | 1 mole, 125 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | Nitromethane | [N+](=O)([O-])C | CH3NO2
reactant | HCl isopropanol | Cl.C(C)(C)O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
product | 3-Nitromethylquinuclidin-3-ol | [N+](=O)([O-])CC1(CN2CCC1CC2)O | C8H14N2O3
